US05569768
4'-Acetamino-2-cyanobiphenyl (0.265 moles, 62.47 g.) was added at -15° to -20° C. to 600 ml of concentrated sulfuric acid. While maintaining the temperature below -15° C., nitric acid (0.278 moles, 17.5 g of 90%) in 200 ml of concentrated sulfuric acid was added dropwise. The reaction was stirred for 30 minutes following the addition and then for 3 hours at room temperature. The reaction was poured onto ice with vigorous stirring. The precipitate was filtered and dried. The solid was stirred in methanol (6 liters) and 2N sodium hydroxide (11 liters) for 6 hours, filtered and dried. The reaction produced 60 g of 4-(2-Cyanophenyl)-3-nitroaniiine. (MS)

reactant | 4'-Acetamino-2-cyanobiphenyl | 0.265 moles, 62.47 g | N(C(=O)C)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C15H12N2O
reactant | nitric acid | 0.278 moles, 17.5 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 600 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(2-Cyanophenyl)-3-nitroaniiine | 60 g | C(#N)C1=C(C=CC=C1)C1=C(C=C(N)C=C1)[N+](=O)[O-] | C13H9N3O2
